US07183276B2
A mixed solution of 3-[2-chloro-4-(4-chlorophenyl)-5-oxazolyl]propionic acid (1.43 g), 2-mercapto-4-methylpyrimidine hydrochloride (1.05 g), potassium carbonate (2.76 g) and N,N-dimethylformamide (20 mL) was stirred at 110° C. under a nitrogen atmosphere for 10 hrs. The reaction mixture was diluted with water, and acidified with 2N aqueous hydrochloric acid solution. The precipitated crystals were collected by filtration and recrystallized from methanol to give 3-[4-(4-chlorophenyl)-2-[(4-methylpyrimidin-2-yl)sulfanyl]-5-oxazolepropionic acid (1.65 g, yield 88%) as colorless prism crystals. melting point: 174–175° C.

reactant | 3-[2-chloro-4-(4-chlorophenyl)-5-oxazolyl]propionic acid | 1.43 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)O | C12H9Cl2NO3
reactant | 2-mercapto-4-methylpyrimidine hydrochloride | 1.05 g | Cl.SC1=NC=CC(=N1)C
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-(4-chlorophenyl)-2-[(4-methylpyrimidin-2-yl)sulfanyl]-5-oxazolepropionic acid | 1.65 g, yield 88% | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)SC1=NC=CC(=N1)C | C17H14ClN3O3S
